US09359338B2
Synthesis of N-[6-[4-[[4-chloro-3-(trifluoromethyl)phenyl]carbamoylamino]-3-methyl-phenoxy]pyrimidin-4-yl]cyclopropanecarboxamide
Dissolve N-[6-(4-amino-3-methyl-phenoxy)pyrimidin-4-yl]cyclopropanecarboxamide (1.8 g, 6.3 mmol) in tetrahydrofuran (50 mL) and dichloromethane (50 mL), add slowly 4-chloro-3-(trifluoromethyl)phenyl isocynate (1.4 g, 6.3 mmol), stir the reaction at room temperature for 15 hrs. Collect the white solid formed by filtration (2.0 g), recover from the mother liquor to give another 1.0 g (total 3.0 g, 93.7% yield). MS: (M+1): 506.2.

reactant | N-[6-(4-amino-3-methyl-phenoxy)pyrimidin-4-yl]cyclopropanecarboxamide | 6.3 mmol, 1.8 g | NC1=C(C=C(OC2=CC(=NC=N2)NC(=O)C2CC2)C=C1)C | C15H16N4O2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocynate | 6.3 mmol, 1.4 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[6-[4-[[4-chloro-3-(trifluoromethyl)phenyl]carbamoylamino]-3-methyl-phenoxy]pyrimidin-4-yl]cyclopropanecarboxamide | 93.7% yield | ClC1=C(C=C(C=C1)NC(=O)NC1=C(C=C(OC2=CC(=NC=N2)NC(=O)C2CC2)C=C1)C)C(F)(F)F | C23H19ClF3N5O3
